US07365085B2
a) 4-{3-[(Chloro-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}-benzaldehyde
To a solution of 3-[(Chloro-trifluoromethyl-benzyl)-diphenylethyl-amino]-propan-1-ol (0.500 g, 1.12 mmol) in toluene (4 ml) at ambient temperature was added 4-Hydroxy-benzaldehyde (0.213 g, 1.74 mmol) under Argon with stirring. The mixture was treated with polymer bound PPh3 (0.594 g, 1.782 mmol). After 15 minutes of stirring, the mixture was treated with DIAD (0.273 mL, 1.387 mmol) and was stirred at ambient temperature overnight. The reaction mixture was filtered then concentrated, in-vacuo, to dryness. The oil was dissolved in DMSO and was purified via reverse-phase HPLC to yield the title compound (0.266 g, 43%); MS (ES+) m/e 553 [M+H]+.

reactant | 3-[(Chloro-trifluoromethyl-benzyl)-diphenylethyl-amino]-propan-1-ol | 1.12 mmol, 0.500 g | ClC(C1=CC=CC=C1)(C(F)(F)F)N(CCCO)CC(C1=CC=CC=C1)C1=CC=CC=C1 | C25H25ClF3NO
reactant | 4-Hydroxy-benzaldehyde | 1.74 mmol, 0.213 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | PPh3 | 1.782 mmol, 0.594 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 1.387 mmol, 0.273 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | 4-{3-[(Chloro-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}-benzaldehyde | 0.266 g, 43% | ClC(C1=CC=CC=C1)(C(F)(F)F)N(CCCOC1=CC=C(C=O)C=C1)CC(C1=CC=CC=C1)C1=CC=CC=C1 | C32H29ClF3NO2
